US05504242
According to the same manner as described in Example 1 except for reacting N-(2-ethylhexyloxycarbonyl)maleimide with 1,6-hexanediol under conditions shown in Table 20, 2-Ethylhexyl N-{3-(6-hydroxyhexyloxycarbonyl)propenoyl)carbamate was obtained. Characteristics and identified structure of the resulting compound are shown in Table 18.

reactant | N-(2-ethylhexyloxycarbonyl)maleimide | C(C)C(COC(=O)N1C(C=CC1=O)=O)CCCC | C13H19NO4
reactant | 1,6-hexanediol | C(CCCCCO)O | C6H14O2
product | 2-Ethylhexyl N-{3-(6-hydroxyhexyloxycarbonyl)propenoyl)carbamate | OCCCCCCOC(=O)C=CC(=O)NC(OCC(CCCC)CC)=O | C19H33NO6
